US08754080B2
To a solution of 5-(2-chloro-9-isopropyl-9H-purin-6-yl)-pyrimidin-2-ylamine (2.84 mmol) in dimethyl acetamide (18 ml) was added morpholine (2.84 mmol). The reaction mixture was stirred while being heated on an oil bath maintained at 94° C. for 12 h. The reaction was monitored for the absence of starting material by LC-MS. The crude material was directly loaded onto a preparative HPLC column and purified by chromatography to give 5-(9-isopropyl-2-morpholin-4-yl-9H-purin-6-yl)-pyrimidin-2-ylamine in a yield of 58%. 1H NMR, DMSO-d6: 9.53 (s, 2H), 8.32 (s, 1H), 7.30 (bs, 2H), 4.72 (m, 1H), 3.78 (m, 4H), 3.73 (m, 4H), 1.55 (d, 6H), m/z: 341.17 [MH]+.

reactant | 5-(2-chloro-9-isopropyl-9H-purin-6-yl)-pyrimidin-2-ylamine | 2.84 mmol | ClC1=NC(=C2N=CN(C2=N1)C(C)C)C=1C=NC(=NC1)N | C12H12ClN7
reactant | morpholine | 2.84 mmol | N1CCOCC1 | C4H9NO
solvent | dimethyl acetamide | 18 ml | CC(=O)N(C)C | C4H9NO
product | 5-(9-isopropyl-2-morpholin-4-yl-9H-purin-6-yl)-pyrimidin-2-ylamine | yield of 58% | C(C)(C)N1C2=NC(=NC(=C2N=C1)C=1C=NC(=NC1)N)N1CCOCC1 | C16H20N8O
